### ISSUE TITLE
[Bug] Goroutine and Resource Leak in Terminal Exec Timeout Handling

### ISSUE THREAD

**Issue by zesty-clawd** [vxcontrol/pentagi#108]
# Goroutine and Resource Leak in Terminal Tool Exec Timeout Handling

## Summary
The `getExecResult` method in `backend/pkg/tools/terminal.go` contains a goroutine leak when command execution times out. When the context expires, the function returns early but leaves a goroutine blocked on `io.Copy`, which continues reading from `resp.Reader` indefinitely.

## Location
**File:** `backend/pkg/tools/terminal.go`  
**Method:** `func (t *terminal) getExecResult(ctx context.Context, id string, timeout time.Duration) (string, error)`  
**Lines:** Approximately 220-260

## The Bug

```go
func (t *terminal) getExecResult(ctx context.Context, id string, timeout time.Duration) (string, error) {
    ctx, cancel := context.WithTimeout(ctx, timeout)
    defer cancel()

    resp, err := t.dockerClient.ContainerExecAttach(ctx, id, container.ExecAttachOptions{
        Tty: true,
    })
    if err != nil {
        return "", fmt.Errorf("failed to attach to exec process: %w", err)
    }
    defer resp.Close()

    dst := bytes.Buffer{}
    done := make(chan struct{})
    go func() {
        _, err = io.Copy(&dst, resp.Reader)  // ← This goroutine can leak
        close(done)
    }()

    select {
    case <-done:
    case <-ctx.Done():  // ← When this happens, we return but goroutine keeps running
        result := fmt.Sprintf("temporary output: %s", dst.String())
        err = fmt.Errorf("timeout value is too low, use greater value if you need so: %w: %s", ctx.Err(), result)
    }
    // ...
    return results, nil
}
```

## Problem Analysis

When `ctx.Done()` is triggered (timeout), the function:
1. Returns immediately with a timeout error
2. Executes `defer resp.Close()` which closes the connection
3. **BUT** the goroutine running `io.Copy(&dst, resp.Reader)` may still be blocked on the read

### Why This Is Problematic

1. **Goroutine Leak**: The goroutine never terminates because:
   - `io.Copy` may be blocked waiting for data
   - Even after `resp.Close()`, the read might not immediately unblock depending on the underlying implementation
   - The goroutine will remain in memory until the process terminates

2. **Resource Accumulation**: In a long-running PentAGI system executing many commands:
   - Each timeout creates an orphaned goroutine
   - Accumulation of these goroutines leads to memory bloat
   - System performance degrades over time

3. **Unpredictable Behavior**: 
   - The leaked goroutine may complete later and write to closed channels or buffers
   - Error handling becomes unreliable since errors from the goroutine are discarded

## Impact

- **Severity**: Medium to High
- **Affected Scenarios**: 
  - Commands that frequently timeout
  - Long-running penetration testing tasks with many tool invocations
  - Systems with strict resource limits
- **Observable Symptoms**:
  - Gradual memory increase over time
  - Growing number of goroutines (visible via `runtime.NumGoroutine()`)
  - Potential Docker connection pool exhaustion

## Reproduction Steps

1. Execute a command that will timeout:
```bash
./pentagi terminal execute --command "sleep 600" --timeout 5
```

2. Monitor goroutine count before and after multiple timeout events:
```go
fmt.Printf("Goroutines before: %d\n", runtime.NumGoroutine())
// Execute multiple commands with timeouts
fmt.Printf("Goroutines after: %d\n", runtime.NumGoroutine())
```

3. Observe that goroutine count increases with each timeout

## Recommended Fix

Use a context-aware copy operation or ensure the goroutine can be interrupted:

### Option 1: Context-Aware Copy (Preferred)

```go
func (t *terminal) getExecResult(ctx context.Context, id string, timeout time.Duration) (string, error) {
    ctx, cancel := context.WithTimeout(ctx, timeout)
    defer cancel()

    resp, err := t.dockerClient.ContainerExecAttach(ctx, id, container.ExecAttachOptions{
        Tty: true,
    })
    if err != nil {
        return "", fmt.Errorf("failed to attach to exec process: %w", err)
    }
    defer resp.Close()

    dst := bytes.Buffer{}
    errChan := make(chan error, 1)
    
    go func() {
        // Use context-aware copy
        _, err := io.Copy(&dst, resp.Reader)
        errChan <- err
    }()

    select {
    case err := <-errChan:
        if err != nil && err != io.EOF {
            return "", fmt.Errorf("failed to copy output: %w", err)
        }
    case <-ctx.Done():
        // Close the connection to interrupt the io.Copy
        resp.Close()
        
        // Wait a short time for goroutine to exit gracefully
        select {
        case <-errChan:
            // Goroutine completed
        case <-time.After(100 * time.Millisecond):
            // Goroutine still blocked, but we've done our best
        }
        
        result := fmt.Sprintf("temporary output: %s", dst.String())
        return "", fmt.Errorf("timeout value is too low, use greater value if you need so: %w: %s", ctx.Err(), result)
    }

    // Continue with rest of function...
}
```

### Option 2: Use io.CopyN or Buffered Reading

Alternatively, use buffered reads with context checking in a loop instead of `io.Copy`, allowing interruption between reads.

## Additional Notes

- This pattern appears in other similar codebases and is a common mistake when dealing with context cancellation and I/O operations
- Consider adding goroutine leak detection in tests using tools like `goleak`
- The fix should ensure backward compatibility with existing timeout behavior

## Environment

- Project: PentAGI
- Component: Terminal Tool Executor
- Language: Go
- Docker SDK: github.com/docker/docker

---

This bug represents a fundamental issue with resource management in concurrent systems and should be addressed to ensure system stability during extended penetration testing operations.

**Comment by HassanSystems** [comment]
Good catch — this is a real goroutine leak.

The root issue is that io.Copy runs in a goroutine that is not guaranteed to exit when the context times out. Returning on ctx.Done() without synchronizing on that goroutine leaves it blocked on resp.Reader.

The fix needs to:

Force-unblock the reader (resp.Close())

Synchronously wait for the copy goroutine to exit

Ensure the goroutine can never block on channel send

Example pattern:

errChan := make(chan error, 1)
go func() {
    _, err := io.Copy(&dst, resp.Reader)
    select {
    case errChan <- err:
    default:
    }
}()

select {
case err := <-errChan:
    // normal completion
case <-ctx.Done():
    _ = resp.Close()
    <-errChan
    return "", ctx.Err()
}

This guarantees deterministic goroutine shutdown and avoids resource leakage under repeated timeouts.

**Comment by ChiragHS-MYS** [comment]
Assign it to me and I can fix it for you sir

**Comment by Muitamax** [comment]
Advanced hardening options:
Use errgroup.WithContext
Wrap reader in io.LimitedReader
Add goleak.VerifyNone(t) in tests
Add Docker client timeout tuning
Add integration test simulating hung container

**Comment by Vaibhavee89** [comment]
## Fix Implemented

I've created PR #134 that implements the fix for this goroutine leak issue.

### Implementation Details

The fix follows the recommended Option 1 from this issue with the following approach:

**Key Changes:**
1. **Error Channel**: Replaced the `done` channel with a buffered error channel (`errChan`) that captures the `io.Copy` result
2. **Graceful Shutdown**: On timeout, uses a nested `select` to wait up to `defaultExtraExecTimeout` (5 seconds) for the goroutine to complete
3. **Proper Cleanup**: The existing `defer resp.Close()` ensures the connection is closed, which helps interrupt the blocked `io.Copy`

### Why This Works

**Normal Execution:**
- Goroutine completes `io.Copy` and sends error (or nil) to `errChan`
- Main function receives it and handles appropriately

**Timeout Scenario:**
- Context expires, triggering `ctx.Done()` case
- Nested `select` waits up to 5 seconds for goroutine to finish gracefully
- If goroutine completes in time, we capture its error
- If still blocked after 5 seconds, we continue (but the goroutine will eventually exit when the deferred `resp.Close()` takes effect)
- Return timeout error with partial output

### Advantages Over Issue Recommendation

Our implementation uses `defaultExtraExecTimeout` (5 seconds) instead of 100ms for the grace period, which:
- Provides more time for Docker I/O operations to complete cleanly
- Reduces the chance of orphaned goroutines in slow environments
- Is consistent with the existing timeout constants in the codebase

The fix prevents the goroutine leak while maintaining backward compatibility with existing timeout behavior.

Please review PR #134 when you have a chance. The CI tests should run automatically to verify the fix doesn't break existing functionality.

**Comment by Muitamax** [comment]
Fix (PR #134)
The fix uses Option 1: context-aware copy with buffered error channel:
Key points:
Buffered Error Channel

errChan := make(chan error, 1)
go func() {
    _, err := io.Copy(&dst, resp.Reader)
    errChan <- err // non-blocking send because channel is buffered
}()

Graceful Shutdown on Timeout

select {
case err := <-errChan:
    // normal completion
case <-ctx.Done():
    resp.Close() // force unblock io.Copy
    // wait up to 5 seconds for goroutine to exit
    select {
    case <-errChan:
    case <-time.After(defaultExtraExecTimeout):
    }
    return "", fmt.Errorf("timeout: %w, partial output: %s", ctx.Err(), dst.String())
}

defaultExtraExecTimeout (5s) is used instead of 100ms to allow Docker I/O to finish cleanly.
Ensures no orphaned goroutines remain.
Proper Cleanup
defer resp.Close() ensures the Docker connection is closed.
errChan ensures goroutine errors are captured safely.
